US07202364B2
3,5-Difluoroaniline (10.0 g, 77.5 mmol) is dissolved in DMF (100 mL). NBS (13.9 g, 78.0 mmol) is added portionwise at room temperature. After stirring overnight at room temperature, the reaction mixture is diluted with Et2O and washed with brine. The separated organic phase is dried (Na2SO4) and concentrated to give an oil which is purified by column chromatography (methylene chloride/hexanes) to give 4-bromo-3,5-difluoroaniline.

reactant | 3,5-Difluoroaniline | 77.5 mmol, 10.0 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | NBS | 78.0 mmol, 13.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 4-bromo-3,5-difluoroaniline | BrC1=C(C=C(N)C=C1F)F | C6H4BrF2N
